US07129235B2
tert-butyl 3-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate
tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate (435 mg, 2.26 mmol), 2-bromo-3-chloropyridine (400 mg, 1.88 mmol), and potassium carbonate (390 mg, 2.83 mmol) were combined in dry dimethylformamide (10 mL) and stirred at 120° C. for 48 hours. The mixture was allowed to cool room temperature, diluted with ethyl acetate, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on silica gel (85:15 hexanes:ethyl acetate) to provide the title compound.

reactant | tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 2.26 mmol, 435 mg | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | 2-bromo-3-chloropyridine | 1.88 mmol, 400 mg | BrC1=NC=CC=C1Cl | C5H3BrClN
reactant | potassium carbonate | 2.83 mmol, 390 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | ClC=1C(=NC=CC1)N1CC2CCC(C1)N2C(=O)OC(C)(C)C | C16H22ClN3O2
